US07989444B2
2-Ethyl-10-methyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-ethyl-10-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (85 mg) and 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (153 mg) and was obtained as a colourless slightly hygroscopic solid (136 mg).

reactant | 2-ethyl-10-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 85 mg | C(C)C=1OC2=C(C3=C(CCNCC3)C=C2N1)C | C14H18N2O
reactant | 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 153 mg | ClCCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C17H19ClN4S
product | 2-Ethyl-10-methyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.C(C)C=1OC2=C(C3=C(CCN(CC3)CCCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1)C | InChI=1S/C31H36N6OS.ClH/c1-5-28-33-27-19-22-13-16-37(17-14-23(22)21(3)29(27)38-28)15-6-7-18-39-31-35-34-30(36(31)4)25-9-8-10-26-24(25)12-11-20(2)32-26;/h8-12,19H,5-7,13-18H2,1-4H3;1H
